US08071768B2
e. 4-{6-Fluoro-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide
The title compound was prepared from 4-{6-Fluoro-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester, prepared in the previous step, and (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride, prepared as described in Example 66a, using essentially the protocol given for Example 170c. 1H-NMR (400 MHz, CDCl3) δ 9.14 (s, 1H), 7.74 (d, 1H), 7.44 (d, 1H), 7.27 (m, 2H), 6.88 (m, 2H), 6.32 (s, 1H), 4.27 (m, 4H), 3.86 (m, 4H), 3.54 (tt, 1H), 3.18-3.08 (m, 6H), 2.58 (t, 2H), 2.64-2.35 (br, 8H), 2.30 (s, 3H), 2.12 (m, 4H), 1.96 (m, 2H). LC/MS (ESI): calcd mass 591.3, found 592.4 (MH)+.

reactant | 4-{6-Fluoro-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)F)OCCCN1CCN(CC1)C | C26H38FN5O3
reactant | (4-morpholin-4-yl-phenyl)-carbamic acid 4-nitro-phenyl ester hydrochloride | Cl.[N+](=O)([O-])C1=CC=C(C=C1)OC(NC1=CC=C(C=C1)N1CCOCC1)=O
product | 4-{6-Fluoro-7-[3-(4-methyl-piperazin-1-yl)-propoxy]-quinazolin-4-yl}-piperidine-1-carboxylic acid (4-morpholin-4-yl-phenyl)-amide | N1(CCOCC1)C1=CC=C(C=C1)NC(=O)N1CCC(CC1)C1=NC=NC2=CC(=C(C=C12)F)OCCCN1CCN(CC1)C | C32H42FN7O3
